US07700641B2
A. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2B, and making non-critical variations to replace 1-(2-cyclopropylethyl)-1H-indole-2,3-dione with isatin, 1,3-benzodioxol-5-ol with 4-bromophenol, the title compound was obtained (71%) as a yellowish solid: MS (ES+) m/z 319.4 (M+1), 321.4 (M+1).

reactant | 1-(2-cyclopropylethyl)-1H-indole-2,3-dione | C1(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | C13H13NO2
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
product | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(NC2=CC=CC=C12)=O)O)O | C14H10BrNO3
